Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I feel like I'm going to die alone."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details surrounding the history and presentation, 
please see OMR including Dr. ___ and Dr. ___ 
___ initial notes dated ___. 
. 
Briefly, this is a ___ year old single man, previously diagnosed 
with mood disorder (depression vs. BPAD), ? autism spectrum 
disorder, s/p 3 prior psychiatric hospitalizations, no prior 
suicide attempts, significant alcohol use, who presented to 
___ with due to concerns of suicidal statements on ___ 
day in the setting of intoxication and frustrations regarding 
his single status. 
.
On initial interview, patient reported that on the night prior 
to presentation, 
he ended up having ___ beers and getting drunk (not to the point 
of blacking out) in the setting of ___ day and feeling 
frustrated that he would never have a girlfriend.  Yesterday 
night/this morning he sent a couple of text messages to his 
friends: ___ you all", and "Oh sorry I'm just trying to burn 
bridges", implying intent to kill himself.  His friends became 
very concerned and called campus police who brought him to ___ 
ED.  On interview, patient was
anxious and stated that he did not want to stay or end up in the 
hospital.  He explains that he was a bit drunk when sending 
those messages, and that he has been drinking more alcohol on 
most days of the week ___ beers nightly) for the last 4 months. 
He states that he has been struggling with poor self esteem 
starting about a year ago when he lost 80 lbs and asked out a 
girl who rejected him.  He did not endorse many symptoms of 
depression other than low mood and low self worth. He stated 
that his appetite and sleep have been normal.  He denied 
anhedonia but did endorse poor grades (failed two classes last 
semester for the first time ever).  He denied any feelings of 
suicidality or past attempts.  He denied self-injurious 
behaviors or wanting to hurt himself now.  He also denies 
homicidal ideation or violence toward others in the past. 
. 
ED Course: patient became agitated following recommendation he 
attend a partial program, required physical and chemical 
restraints 
. 
On interview, patient states that he is certain he will die 
alone because he is "ugly and a bad personality".  He goes on to 
state that he was rejected by a girl whom he was interested in 
one year ago and since has struggled to muster the courage to 
date.  As a result he regards himself as someone unworthy of 
love
and found himself particularly distressed by the ___ Day 
holiday- "one girl thought I was ugly, so all girls probably 
think I'm ugly".  He notes that he has been drinking more 
heavily over the past 6 months and considers himself an 
alcoholic.  He acknowledges that he is using alcohol to cope 
with his feelings but feels that he is "digging [himself] deeper 
into a hole".  He denies suicidality and homicidality and 
clarifies that he deliberately acted out in the ED because he 
was afraid that if he were to go to the partial he would be 
forced to take the remainder of the semester off from school 
which he did not want.  He felt, in that instance, that 
inpatient hospitalization
represented a more suitable alternative assuming he would be 
allowed to complete the semester when released, and knew that he 
would be hospitalized if he flipped over the table.  With regard 
to academics, he believes he is performing reasonably well, but 
admits that he could achieve better grades if he "tried harder", 
noting that math and physics come naturally to him.  He denies 
symptoms of mania or depression but for poor self esteem and 
likewise denies symptoms of psychosis.  He endorses compliance 
with his medications.  He was presented a CV but politely 
declined to sign.
. 

 
Past Medical History:
Past medical history: No past medical history
. 
Past psychiatric history: Per Dr. ___ (___),
confirmed with patient and updated as relevant:
- Diagnoses: Depression- patient himself denies diagnosis of
___
- Hospitalizations: 3 prior at ___ (mother says that
hospitalization was traumatic as he did get restrained and did
have nightmares about this later on), Safequest Partial Program 
- Current treaters and treatment: Psychiatrist, Dr. ___
in ___; PCP, ___ ___ Therapist,
___ (___)
- Medication and ECT trials: Lamictal 125 mg/day; Abilify
10mg/day, Lexapro 30mg/day
- Self-injury: None 
- Harm to others: None 
- Access to weapons: No guns at home

 
Social History:
___
Family History:
Older brother with ___. Denies family history of mental 
illness/suicides.
 
Physical Exam:
VS: T: 98.3 PO; BP: 149 / 85; HR: 67; RR: 17; SpO2: 98% RA  
General: Young Caucasian male in NAD. Well-nourished,
well-developed. Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
Cranial Nerves:
-PERRL
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Executive function (go-no go, Luria, trails, FAS): not tested
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: correctly states 7 quarters in $1.75
Abstraction: apple/orange = "fruits"
Visuospatial: not assessed
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: Mildly anxious appearing, appears stated age,
adequately groomed, wearing hospital ___: Cooperative, initially fidgeting although he 
eventually
calms, pleasant, appropriate eye contact, no psychomotor
agitation or retardation
Mood and Affect: "Okay" / dysthymic, blunted, appropriate to
situation, congruent with mood
Thought Process: linear, coherent, goal-oriented. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: Limited/limited

Discharge Examination:
T 98.0 PO; BP 122 / 75; HR 61; RR 16; SpO2 99%
Appearance/Behavior- Young casually groomed white male wearing 
pajama bottoms/t-shirt, calm, cooperative, smiling, good eye 
contact
Speech- Fluent ___, no paraphasic errors
Mood/Affect- "Better" / full, congruent
Thought process- Linear, goal and future oriented
Thought content- Denies SI/HI/AVH
Insight/Judgment- Fair/Fair  

 
Pertinent Results:
___ 03:17PM   GLUCOSE-95 UREA N-13 CREAT-0.8 SODIUM-142 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-23 ANION GAP-21*
___ 03:17PM   estGFR-Using this
___ 03:17PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:57PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
Briefly, this is a ___ year old single man, previously diagnosed 
with mood disorder (depression vs. BPAD), ? autism spectrum  
disorder, s/p 3 prior psychiatric hospitalizations, no prior 
suicide attempts, significant alcohol use, who presented to  
___ with due to concerns of suicidal statements on ___ 
day in the setting of intoxication and frustrations regarding 
his single status; initially plan was to refer to partial 
hospitalization program but admitted to ___ following an 
episode of agitation requiring chemical and physical restraints. 

. 
On presentation, the patient endorsed a chronic sense of poor 
self worth and self esteem but denied other symptoms of 
depression, mania, or psychosis. Mental status examination was 
noted for a well groomed man who interacted well with his 
treatment team, with reports of depressed mood due to his single 
status but with denial of other neurovegetative symptoms 
consistent with major depression, prior history of mania, and no 
evidence of psychosis. 
.   
#. Legal/Safety: Patient was admitted on a ___, upon 
admission, declined to sign a CV. He maintained his safety 
throughout his psychiatric hospitalization on 15 minute checks 
and did not require physical or chemical restraints during his 
hospitalization. 

#. Adjustment disorder: as noted above
- Patient was compliant in attending groups, where he 
participated appropriately and maintained excellent behavioral 
control during his admission 
- Discussed risks and benefits of CBT to address cognitive 
distortion regarding self image and provided psychoeducation 
regarding the patient's "automatic thoughts." Mr. ___ was 
receptive to continuing a CBT modality of treatment to address 
his depressive symptoms and anxiety and will follow up with his 
outpatient therapist in order to continue to develop alternative 
coping skills. 
- To address periods of apparent affective instability, we 
discussed the risks and benefits of increasing Lamictal, which 
Mr. ___ was amenable to. Lamictal was increased from 125 
mg po qd to 150 mg po qd, which he tolerated well with no 
complaints of side effects. 
- Lexapro 30 mg daily and abilify 10 mg daily were continued at 
home dose. 
- To address anxiety, Ativan 1 mg po q6h was started initially 
with good effect. As his condition improved, the Ativan was 
tapered off prior to discharge without complications. 
- Patient consistently denied suicidal ideation or thoughts of 
self harm throughout his psychiatric admission as well as 
worsening symptoms of depression. Per collateral obtained from 
parents, patient has made self-deprecating and suicidal 
statements in the past but has never acted on them, stating they 
had no concerns for the patient's safety following discharge. 
- Of note, we did offer the patient a referral to partial 
program at time of discharge, which he declined at this time 
since he wanted to return to classes as soon as possible. 

#. Alcohol use: as noted above with daily use 
- Patient was encouraged to attend AA/NA 
- Patient was started on Valium 10 mg po q4h prn CIWA but did 
not require doses. There were no signs or symptoms of alcohol 
withdrawal. 
- Patient will follow up with his therapist and psychiatrist for 
ongoing evaluation and treatment of alcohol use. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ARIPiprazole 10 mg PO DAILY 
2. Escitalopram Oxalate 30 mg PO DAILY 
3. LamoTRIgine 125 mg PO DAILY 

 
Discharge Medications:
1.  Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine craving 
RX *nicotine (polacrilex) 2 mg Chew one stick every 2 hours as 
needed Disp #*15 Gum Refills:*0 
2.  LamoTRIgine 150 mg PO DAILY 
RX *lamotrigine 150 mg 1 tablet(s) by mouth daily Disp #*15 
Tablet Refills:*0 
3.  ARIPiprazole 10 mg PO DAILY  
4.  Escitalopram Oxalate 30 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment disorder

 
Discharge Condition:
T 98.0 PO; BP 122 / 75; HR 61; RR 16; SpO2 99%

Appearance/Behavior- Young casually groomed white male wearing 
pajama bottoms/t-shirt, calm, cooperative, smiling, good eye 
contact
Speech- Fluent ___, no paraphasic errors
Mood/Affect- 'Better' / full, congruent
Thought process- Linear, goal and future oriented
Thought content- Denies SI/HI/AVH
Insight/Judgment- Fair/Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___